US05244597
A suspension of 0.14 g of sodium borohydride in 10 ml of 1,2-dimethoxyethane was treated at 0° C. with a solution of 4-(4'-[(R)-2-octyl]oxycarbonyl-4-biphenylyl)cyclohexanone in 10 ml of 1,2-dimethoxyethane. The reaction mixture was stirred at room temperature for a further 30 minutes and then treated with 25% hydrochloric acid. The reaction mixture was extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed with sodium hydrogen carbonate solution and several times with water and subsequently dried over magnesium sulfate, filtered and concentrated. The residue was recrystallized twice from hexane and gave 0.8 g of trans-4-(4'-[(R)-2-octyl]oxycarbonyl 4-biphenylyl)cyclohexanol.

reactant | sodium borohydride | 0.14 g | [BH4-].[Na+]
reactant | 4-(4'-[(R)-2-octyl]oxycarbonyl-4-biphenylyl)cyclohexanone | C[C@H](CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(CC1)=O | C27H34O3
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | trans-4-(4'-[(R)-2-octyl]oxycarbonyl 4-biphenylyl)cyclohexanol | 0.8 g | C[C@H](CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C27H36O3
